US06660744B1
A solution of cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.293 g, 0.664 mmol) in ethylene glycol dimethyl ether (10 mL) was treated with 3-methoxy-4-[methyl(3-phenylpropanoyl)amino]phenylboronic acid (0.290 g, 0.730 mmol), tetrakis(triphenylphosphine)palladium (0.046 g, 0.040 mmol), and a solution of sodium carbonate (0.169 g, 1.59 mmol) in water (5 mL). The reaction mixture was stirred over night at 85° C. under a nitrogen atmosphere. The solvent was removed under reduced pressure, and ethyl acetate was added to the aqueous layer. The layers were partitioned, and the aqueous layer was extracted with ethyl acetate (150 mL). The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel using 4% methanol in dichloromethane, 8% methanol in dichloromethane, and then 12% methanol in dichloromethane as eluent. A second column using a Supelco flash chromatography silica gel column using 30% methanol in dichloromethane afforded 0.037 g (10%) of cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-N1-methyl-3-phenylpropanamide. 1H NMR (CDCl3, 400 MHz) δ 8.374 (s, 1H), 7.315-7.312 (m, 1H), 7.285-7.213 (m, 3H), 7.174-7.087 (m, 4H), 5.795 (br, s, 2H), 4.965-4.922 (m, 1H), 3.892 (s, 3H), 3.213 (s, 3H), 2.948-2.918 (m, 2H), 2.667 (m, 6H), 2.455-2.349 (m, 10H), 2.25-2.15 (m, 2H), 1.867-1.845 (m, 2H), 1.718-1.710 (m, 2H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 4.947 min (98%).

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.664 mmol, 0.293 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 3-methoxy-4-[methyl(3-phenylpropanoyl)amino]phenylboronic acid | 0.730 mmol, 0.290 g | COC=1C=C(C=CC1N(C(CCC1=CC=CC=C1)=O)C)B(O)O | C17H20BNO4
reactant | sodium carbonate | 1.59 mmol, 0.169 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.040 mmol, 0.046 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-N1-methyl-3-phenylpropanamide | 0.037 g, 10% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N(C(CCC2=CC=CC=C2)=O)C)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C33H42N8O2
